US08212045B2
A flask was charged with 2,4-dimethylpyridin-3-ol (9.0 g, 73.1 mmol) and DMF (80 mL) was added. Sodium hydride (2.03 g, 80.4 mmol) was added and the reaction was stirred for 15 minutes. 5-Bromo-3-nitropicolinonitrile (16.7 g, 73.1 mmol) was added and the reaction was stirred for 25 minutes. The reaction mixture was poured into 600 mL saturated NH4Cl and 600 mL water and then filtered, washed with water and a small amount of hexanes, and dried over high vacuum to provide 5-bromo-3-(2,4-dimethylpyridin-3-yloxy)picolinonitrile (20.5 g, 67.4 mmol, 92.2% yield) as a light tan solid.

reactant | 2,4-dimethylpyridin-3-ol | 73.1 mmol, 9.0 g | CC1=NC=CC(=C1O)C | C7H9NO
reactant | Sodium hydride | 80.4 mmol, 2.03 g | [H-].[Na+]
reactant | 5-Bromo-3-nitropicolinonitrile | 73.1 mmol, 16.7 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | NH4Cl | 600 mL | [NH4+].[Cl-]
solvent | water | 600 mL | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-(2,4-dimethylpyridin-3-yloxy)picolinonitrile | 67.4 mmol, 20.5 g, 92.2% yield | BrC=1C=C(C(=NC1)C#N)OC=1C(=NC=CC1C)C | C13H10BrN3O
